US07696216B2
B. Synthesis of 2-benzylsulphanyl-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-quinazoline
To a solution of 100 mg (299 μmol) 4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazoline-2-thione in 2 ml THF are added 35.5 μl (299 μmol) benzyl bromide and 76 μl (448 μmol) DIEA. After stirring for 18 h at r.t. the reaction mixture is extracted with dichloromethane and water. After evaporation of the organic layers the crude product is purified by flash chromatography using hexanes/ethyl acetate 20:1 as eluent.

reactant | 4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazoline-2-thione | 299 μmol, 100 mg | C(C)(C)C1=CC=C(C=C1)C1=NC(NC2=CC=C(C=C12)OCC#C)=S | C20H18N2OS
reactant | benzyl bromide | 299 μmol, 35.5 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DIEA | 448 μmol, 76 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-benzylsulphanyl-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-quinazoline | C(C1=CC=CC=C1)SC1=NC2=CC=C(C=C2C(=N1)C1=CC=C(C=C1)C(C)C)OCC#C | C27H24N2OS
